*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

Va 1 4 5.18504190779
Vc 5 0 @R6[i] 8.14562893937k

Ib 3 6 2 5 7.00248816446m
Id 6 0 1.03147590492m

R1 1 2 1.02779694281k
R2 3 2 2.07715672461k
R3 2 5 3.1156225241k
R4 5 4 4.11105908751k
R5 6 5 3.02879032081k
R6 4 7 2.02983164661k
R7 7 0 1.00454956611k

*código quee mete a correr o ngspice

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
